US04918074
10 ml of 6N hydrochloric acid is added to a solution of 4.4 g of 7-dimethoxymethyl-6-ethoxycarbonyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine in mixture of 10 ml of acetone and 10 ml of water and the mixture is stirred at room temperature for an hour, and then allowed to stand overnight. The solvent is distilled off under reduced pressure below 40° C. to give 4 g of 6-ethoxycarbonyl-7-formyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine hydrochloride, melting at 228° C. with decomposition.

reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | 7-dimethoxymethyl-6-ethoxycarbonyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 4.4 g | COC(C=1NC=2N(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)OC | C18H20N4O6
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 6-ethoxycarbonyl-7-formyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine hydrochloride | 4 g | Cl.C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C=O | InChI=1S/C16H14N4O5.ClH/c1-2-25-15(22)13-12(9-21)18-16-17-6-7-19(16)14(13)10-4-3-5-11(8-10)20(23)24;/h3-9,14H,2H2,1H3,(H,17,18);1H
